US07662402B2
14.6 g of 2,2,3,3,4,4,5,5,6,6,7,7-dodecafluoroheptyl trifluoromethanesulfonate was dissolved in 20 ml of dimethyl sulfoxide, and 5.5 g of potassium carbonate was added. 2.6 g of malononitrile dissolved in 10 ml of dimethyl sulfoxide was added dropwise thereto, and the mixture was stirred at room temperature for 3 hours. The reaction mixture was poured to water and then extracted with diethyl ether. The organic layer was washed successively with water and aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 2.0 g of 2-(2,2,3,3,4,4,5,5,6,6,7,7-dodecafluoroheptyl)malononitrile.

reactant | 2,2,3,3,4,4,5,5,6,6,7,7-dodecafluoroheptyl trifluoromethanesulfonate | 14.6 g | FC(S(=O)(=O)OCC(C(C(C(C(C(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C8H3F15O3S
reactant | potassium carbonate | 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | malononitrile | 2.6 g | C(CC#N)#N | C3H2N2
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 2-(2,2,3,3,4,4,5,5,6,6,7,7-dodecafluoroheptyl)malononitrile | 2.0 g | FC(CC(C#N)C#N)(C(C(C(C(C(F)F)(F)F)(F)F)(F)F)(F)F)F | C10H4F12N2
